US04347186
A solution of N,N-dimethyl-4-fluorobenzamide (8.4 g, 0.05 moles) in anhydrous 1,2-dichloroethane (170 ml) containing phosphorous oxychloride (7.7 g, 0.05 moles) was heated at reflux temperature for 1 hour. At the end of this time 2-methylthiopyrrole (2.82 g, 0.025 moles) was added and heating was continued for an additional 0.5 hour. The solution was cooled to room temperature, and to the cooled solution was cautiously added, with good agitation, a solution of sodium acetate (12.3 g, 0.15 moles) in water (50 ml) and the mixture was then boiled under reflux for 1 hour. The organic phase was separated, washed with water, dried, and evaporated. The residue was subjected to column chromatography on silica gel using ethyl acetate-hexane (1:9) as the eluting solvent. A yellow colored solid 2-(methylthio)-5-(4-fluorobenzoyl)pyrrole (3.2 g, 54%) was obtained which after crystallization from ether-hexane had m.p. 112°-113° C.

reactant | N,N-dimethyl-4-fluorobenzamide | 0.05 moles, 8.4 g | CN(C(C1=CC=C(C=C1)F)=O)C | C9H10FNO
reactant | phosphorous oxychloride | 0.05 moles, 7.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-methylthiopyrrole | 0.025 moles, 2.82 g | CSC=1NC=CC1 | C5H7NS
reactant | sodium acetate | 0.15 moles, 12.3 g | C(C)(=O)[O-].[Na+]
solvent | 1,2-dichloroethane | 170 ml | ClCCCl | C2H4Cl2
solvent | water | 50 ml | O | H2O
product | 2-(methylthio)-5-(4-fluorobenzoyl)pyrrole | 3.2 g, 54% | CSC=1NC(=CC1)C(C1=CC=C(C=C1)F)=O | C12H10FNOS
